US07468236B2
To 8.7 g of morpholine, 27.6 g of 1,2-epoxy-4,4,5,5,6,6,7,7,7-nonafluoroheptane was added dropwise. The mixture was then stirred at 80° C. for 10 hours. The reaction mixture was directly purified by silica gel column chromatography, obtaining 33.8 g of 1-morpholino-4,4,5,5,6,6,7,7,7-nonafluoro-2-heptanol (yield 93%).

reactant | morpholine | 8.7 g | N1CCOCC1 | C4H9NO
reactant | 1,2-epoxy-4,4,5,5,6,6,7,7,7-nonafluoroheptane | 27.6 g | O1CC1CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C7H5F9O
product | 1-morpholino-4,4,5,5,6,6,7,7,7-nonafluoro-2-heptanol | 33.8 g, yield 93% | O1CCN(CC1)CC(CC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)O | C11H14F9NO2
